US07662819B2
To a suspension of N-(2-(2-chloro-5-nitropyrimidin-4-ylamino)ethyl)acetamide as prepared in Example 1A (100 mg, 0.39 mmol) in THF (5 mL) was added 80 μL of N,N-diisopropylethylamine followed by of 3,4-dichlorobenzylamine. The mixture was stirred at 60° C. for 16 hours. The mixture was then diluted with 5 mL of THF and a solution of 0.6 g of Na2S2O4 (85% tech. grade, 2.9 mmol) and 0.9 g of Na2CO3 (8.5 mmol) in 10 mL of water was added. The mixture was stirred at 60° C. for 10 h and allowed to cool to room temperature. The mixture was diluted with 30 mL of EtOAc and washed with 20 mL of saturated NaHCO3 solution and 20 mL of brine. The combined organic phase was dried over MgSO4 and concentrated to provide crude N-{2-[(5-amino-2-{[(3,4-dichlorophenyl)methyl]amino}pyrimidin-4-yl)amino]ethyl}acetamide which was used the without further purification. m/z (ESI) found 369.2 [M+H+].

reactant | N-(2-(2-chloro-5-nitropyrimidin-4-ylamino)ethyl)acetamide | ClC1=NC=C(C(=N1)NCCNC(C)=O)[N+](=O)[O-] | C8H10ClN5O3
reactant | N,N-diisopropylethylamine | 80 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | Na2S2O4 | 2.9 mmol, 0.6 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2CO3 | 8.5 mmol, 0.9 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-{2-[(5-amino-2-{[(3,4-dichlorophenyl)methyl]amino}pyrimidin-4-yl)amino]ethyl}acetamide | NC=1C(=NC(=NC1)NCC1=CC(=C(C=C1)Cl)Cl)NCCNC(C)=O | C15H18Cl2N6O
